US05418237
By reaction of methyl 3-(4-bromobutyl)indole-5-carboxylate with 1-(o-methoxyphenyl)piperazine "B" analogously to Example 1, methyl 3-[4-(4-o-methoxyphenylpiperazino)butyl]indole-5-carboxylate is obtained; hydrate, hydrochloride, m.p. 195°-196°.

reactant | methyl 3-(4-bromobutyl)indole-5-carboxylate | BrCCCCC1=CNC2=CC=C(C=C12)C(=O)OC | C14H16BrNO2
reactant | 1-(o-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | methyl 3-[4-(4-o-methoxyphenylpiperazino)butyl]indole-5-carboxylate | COC1=C(C=CC=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)OC | C25H31N3O3
